### ISSUE TITLE
timeout at 'whnf' when avoiding List.mem_sublistsLen

### ISSUE THREAD

**Issue by dMaggot** [leanprover/lean4#2458]
### Prerequisites

* [x] Put an X between the brackets on this line if you have done all of the following:
    * Checked that your issue isn't already [filed](https://github.com/leanprover/lean4/issues).
    * Reduced the issue to a self-contained, reproducible test case.

### Description

The following works:

```lean
import Mathlib.Data.List.Sublists

example : ∀ l : List ℕ, l ∈ (List.range 10).sublistsLen 3 → l.length > 2 := by
  simp 
  sorry
```

Now, suppose for whatever eason I do not want `List.mem_sublistsLen` to be used in the simplification:

```lean
import Mathlib.Data.List.Sublists

example : ∀ l : List ℕ, l ∈ (List.range 10).sublistsLen 3 → l.length > 2 := by
  simp [-List.mem_sublistsLen]
  sorry
```
Here I get:

```
(deterministic) timeout at 'whnf', maximum number of heartbeats (200000) has been reached (use 'set_option maxHeartbeats <num>' to set the limit)
```
Even removing the offending lemma from the simpset triggers this behavior:

```lean
import Mathlib.Data.List.Sublists

attribute [-simp] List.mem_sublistsLen

example : ∀ l : List ℕ, l ∈ (List.range 10).sublistsLen 3 → l.length > 2 := by
  simp
  sorry
```
Approaching the problem from the opposite side, I check what all was used in the simplification that worked:

```lean
import Mathlib.Data.List.Sublists

set_option tactic.simp.trace true

example : ∀ l : List ℕ, l ∈ (List.range 10).sublistsLen 3 → l.length > 2 := by
  simp
  sorry
```
I get

```
Try this: simp only [List.find?, Function.comp.left_id, Function.comp_apply, List.mem_sublistsLen, gt_iff_lt, and_imp]
```
So taking the offending lemma out of that list gives me what I want:

```lean
import Mathlib.Data.List.Sublists

set_option tactic.simp.trace true

example : ∀ l : List ℕ, l ∈ (List.range 10).sublistsLen 3 → l.length > 2 := by
  simp only [List.find?, Function.comp.left_id, Function.comp_apply, gt_iff_lt, and_imp]
  sorry
```

**Expected behavior:** I would expect the simplification when removing one lemma to work.
**Actual behavior:** Timeout at `whnf`.

**Reproduces how often:** Every time.

### Versions

Lean: "4.0.0-nightly-2023-08-15"
OS: Arch Linux (rolling)

**Comment by semorrison** [comment]
We need a minimisation that does not rely on Mathlib.

**Comment by dMaggot** [comment]
> We need a minimisation that does not rely on Mathlib.

Can it rely on `std4` or are you also not responsible for that?
